### PR TITLE
[Merged by Bors] - feat(GroupTheory): each term in a upper(lower) central series is a characteristic subgroup

### PR DESCRIPTION
**Pull request by CoolRmal**
The main lemma proved in this PR is `Subgroup.Characteristic.quotient`, which says that if `H` is a characteristic subgroup of `G`, and `K` is a characteristic subgroup of `G / H`, then the preimage of `K` under the projection map is a characteristic subgroup of `G`. As a corollary, I proved that each term in the upper central series is a characteristic subgroup. I deleted the instances related to normality as normality can be inferred from being characteristic.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by CoolRmal** [comment]
-WIP

File: Mathlib/GroupTheory/Nilpotent.lean [hunk 1]
```diff
@@ -111,24 +111,31 @@ theorem upperCentralSeriesStep_eq_comap_center :
...
-  rw [upperCentralSeriesStep_eq_comap_center]
-  infer_instance
+@[to_additive]
+theorem Subgroup.Characteristic.quotient [hH : Characteristic H] {K : Subgroup (G ⧸ H)}
+    (hK : K.Characteristic) :
+    Characteristic (K.comap (mk' H)) := by
+  refine characteristic_iff_map_le.2 fun ϕ x ⟨y, hy⟩ => ?_
+  have := characteristic_iff_map_eq.1 hK (congr H H ϕ (characteristic_iff_map_eq.1 hH ϕ))
+  have := mem_map_of_mem (congr H H ϕ (characteristic_iff_map_eq.1 hH ϕ)).toMonoidHom hy.1
+  simp_all
```
Comment (tb65536) [inline Mathlib/GroupTheory/Nilpotent.lean]: This should be in an earlier file, I think.

Comment (CoolRmal) [reply Mathlib/GroupTheory/Nilpotent.lean]: Do you have any suggestions about which file I should put this lemma into? I may need  a large import if I move this into other files (e.g. Mathlib.Algebra.Group.Subgroup.Basic. Subgroup.Characteristic is defined in this file, but it does not import anything related to quotient groups)

Comment (tb65536) [reply Mathlib/GroupTheory/Nilpotent.lean]: Can it be generalized to arbitrary surjective homomorphisms?

Comment (CoolRmal) [reply Mathlib/GroupTheory/Nilpotent.lean]: I don't think so. At least my current proof cannot be generalized, as kernels are normal but not necessarily characteristic. My proof relies on the fact that `H` is characteristic and hence every automorphism of `G` induces an automorphism of `G/H`.

Comment (tb65536) [reply Mathlib/GroupTheory/Nilpotent.lean]: Does the file on quotient groups have sufficient imports?

Comment (CoolRmal) [reply Mathlib/GroupTheory/Nilpotent.lean]: I don't think so. Usually only normality is imported.

Comment (tb65536) [reply Mathlib/GroupTheory/Nilpotent.lean]: But doesn't `Mathlib.GroupTheory.Coset.Basic` import `Mathlib.Algebra.Group.Subgroup.Basic` which contains `characteristic`?

Comment (CoolRmal) [reply Mathlib/GroupTheory/Nilpotent.lean]: Ok that's true. Do you think I should move this theorem into `Mathlib.GroupTheory.Coset.Basic`?

Comment (tb65536) [reply Mathlib/GroupTheory/Nilpotent.lean]: Yes, I think that would probably be the best place for it.

Comment (CoolRmal) [reply Mathlib/GroupTheory/Nilpotent.lean]: Actually I moved this lemma into `Mathlib.GroupTheory.QuotientGroup.Basic` without importing any new files.

File: Mathlib/GroupTheory/QuotientGroup/Basic.lean [hunk 2]
```diff
@@ -390,6 +390,16 @@ theorem comap_comap_center {H₁ : Subgroup G} [H₁.Normal] {H₂ : Subgroup (G
   simp only [mk'_apply, Subgroup.mem_comap, Subgroup.mem_center_iff, forall_mk, ← mk_mul,
     eq_iff_div_mem, mk_div]
 
+open Subgroup in
+@[to_additive]
+theorem comap_Characteristic [hN : N.Characteristic] {K : Subgroup (G ⧸ N)}
```
Comment (tb65536) [inline Mathlib/GroupTheory/QuotientGroup/Basic.lean]: Maybe `Subgroup.Characteristic.comap_quotient_mk` would be a better name?

File: Mathlib/GroupTheory/QuotientGroup/Basic.lean [hunk 3]
```diff
@@ -390,6 +390,16 @@ theorem comap_comap_center {H₁ : Subgroup G} [H₁.Normal] {H₂ : Subgroup (G
...
 
+open Subgroup in
+@[to_additive]
+theorem _root_.Subgroup.Characteristic.comap_quotient_mk {H : Subgroup G} [H.Characteristic]
+    {K : Subgroup (G ⧸ H)} (hK : K.Characteristic) :
+    Characteristic (K.comap (mk' H)) := by
+  refine characteristic_iff_map_le.2 fun ϕ x ⟨y, hy, _⟩ => ?_
+  have := characteristic_iff_map_eq.1 hK (congr H H ϕ (characteristic_iff_map_eq.1 inferInstance ϕ))
+  have := mem_map_of_mem (congr H H ϕ (characteristic_iff_map_eq.1 inferInstance ϕ)).toMonoidHom hy
+  simp_all
```
Comment (tb65536) [inline Mathlib/GroupTheory/QuotientGroup/Basic.lean]:
```suggestion
theorem _root_.Subgroup.Characteristic.comap_quotient_mk {H : Subgroup G} [hH : H.Characteristic]
    {K : Subgroup (G ⧸ H)} (hK : K.Characteristic) :
    Characteristic (K.comap (mk' H)) :=
  characteristic_iff_comap_eq.mpr fun φ ↦ congr_arg (comap (mk' H))
    (characteristic_iff_comap_eq.mp hK (congr H H φ (characteristic_iff_map_eq.mp hH φ)))
```

**Review by tb65536 — APPROVED** [review]

**Review by tb65536 — APPROVED** [review]
maintainer merge

File: Mathlib/Algebra/Group/Subgroup/Basic.lean [hunk 4]
```diff
@@ -271,7 +271,7 @@ instance normal_top : (⊤ : Subgroup G).Normal where
   conj_mem _ a _ := a
 
 /-- The trivial subgroup `{1}`is normal. -/
```
Comment (adomani) [inline Mathlib/Algebra/Group/Subgroup/Basic.lean]:
```suggestion
/-- The trivial subgroup `{1}` is normal. -/
```
Thanks for correcting the typo!  Would you mind fixing this as well?

**Review by adomani — COMMENTED** [review]
Thanks!

bors merge
